US04649221
The procedure of Example 3 is repeated using 29.6 g of N,N-dibenzylhexamethylenediamine 142 g of dibasic sodium phosphate and 53.2 g of benzoyl peroxide to afford 20.6 g of N,N'-dibenzyl-N,N'-dibenzoyloxyhexamethylenediamine. Saponification of 31.3 g of the above with 11.5 g of potassium hydroxide in 300 ml of methanol gives 8.2 g of product as a white solid; m.p. 133°-135° C.

reactant | N,N-dibenzylhexamethylenediamine | 29.6 g | C(C1=CC=CC=C1)N(CCCCCCN)CC1=CC=CC=C1 | C20H28N2
reactant | sodium phosphate | P(=O)([O-])([O-])[O-].[Na+].[Na+].[Na+]
reactant | benzoyl peroxide | 53.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | N,N'-dibenzyl-N,N'-dibenzoyloxyhexamethylenediamine | 20.6 g | C(C1=CC=CC=C1)N(CCCCCCN(OC(C1=CC=CC=C1)=O)CC1=CC=CC=C1)OC(C1=CC=CC=C1)=O | C34H36N2O4
